US08685975B2
To a solution of 3,5-dimethoxy-4-methylphenyl formate (2.9 g, 14.8 mmol) in wet MeOH (81 mL) was added K2CO3 (8.1 g, 58.6 mmol). The mixture was stirred for 2 hrs at room temperature then H2O (2-3 mL) was added. After stirring for 21 hrs, the mixture was diluted with H2O, acidified with 6M HCl to pH 3-4, and extracted with EtOAc. The combined organics were washed with brine, dried over Na2SO4 and concentrated in vacuo. Purification by chromatography (0-35% EtOAc-hexanes) gave 3,5-dimethoxy-4-methylphenol as an impure yellow powder (0.71 g, 29% yield).

reactant | 3,5-dimethoxy-4-methylphenyl formate | 14.8 mmol, 2.9 g | C(=O)OC1=CC(=C(C(=C1)OC)C)OC | C10H12O4
reactant | K2CO3 | 58.6 mmol, 8.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 6M | Cl | ClH
solvent | MeOH | 81 mL | CO | CH4O
solvent | H2O | O | H2O
solvent | H2O | 2-3 mL | O | H2O
product | 3,5-dimethoxy-4-methylphenol | 0.71 g, 29% yield | COC=1C=C(C=C(C1C)OC)O | C9H12O3
